### ISSUE TITLE
simp only [Option.some_bind] -> maximum recursion depth has been reached

### ISSUE THREAD

**Issue by tobiasgrosser** [leanprover/lean4#5935]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

```lean
set_option diagnostics true
theorem extracted_1 (e : Option (BitVec 32)) :
  none =
    Option.bind e fun x =>
      if x ≥ ↑32 then none
      else
        (some ((BitVec.ofInt 32 (-33)).sshiftRight x.toNat)).bind fun x' =>
          if (x').sshiftRight (3#32).toNat = x' then none
          else some (x' <<< 3#32) := by
  simp only [Option.some_bind]
/-
tactic 'simp' failed, nested error:
maximum recursion depth has been reached
use `set_option maxRecDepth <num>` to increase limit
use `set_option diagnostics true` to get diagnostic information
-/
```
### Context

I checked with @hargoniX and this seems to be a bug.

### Steps to Reproduce

1. Copy into live.lean-lang.org
2. Observe the error

**Expected behavior:** No error recursion error

**Actual behavior:** Either simp successfully terminating or reporting that it could not find a simp-lemma to apply

### Versions

Lean 4.14.0-nightly-2024-11-03
Target: x86_64-unknown-linux-gnu

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by Kha** [comment]
Brief inspection: seems to be a complex isDefEq after application of the simp theorem
```
  [Meta.Tactic.simp.rewrite] Option.some_bind:1000, (some ((BitVec.ofInt 32 (-33)).sshiftRight x.toNat)).bind fun y =>
      if y = 0#32 then none
      else some 0#32 ==> if (BitVec.ofInt 32 (-33)).sshiftRight x.toNat = 0#32 then none else some 0#32 
  [Meta.Tactic.simp.unify] eq_self:1000, failed to unify
      ?a = ?a
    with
      (BitVec.ofInt 32 (-33)).sshiftRight x.toNat = 0#32 
  [Meta.Tactic.simp.congr] ite_congr not modified 
  [Meta.isDefEq] [0.031529] 💥️ ?h₃ =?= fun a => Eq.refl (if (BitVec.ofInt 32 (-33)).sshiftRight x.toNat = 0#32 then none else some 0#32) ▶
```
`seal BitVec.sshiftRight` turns it into a `(kernel) deep recursion detected`

**Comment by tobiasgrosser** [comment]
Thank you for investigating. Let me know if I can help in some way to get this resolved.

**Comment by nomeata** [comment]
Fallout from https://github.com/leanprover/lean4/pull/5479 maybe? Maybe that defeq check needs to run at reduced transparency? (But this being in the simplifier isn't the transparency already reduced?)

**Comment by tobiasgrosser** [comment]
> Brief inspection: seems to be a complex isDefEq after application of the simp theorem
> 
> ```
>   [Meta.Tactic.simp.rewrite] Option.some_bind:1000, (some ((BitVec.ofInt 32 (-33)).sshiftRight x.toNat)).bind fun y =>
>       if y = 0#32 then none
>       else some 0#32 ==> if (BitVec.ofInt 32 (-33)).sshiftRight x.toNat = 0#32 then none else some 0#32 
>   [Meta.Tactic.simp.unify] eq_self:1000, failed to unify
>       ?a = ?a
>     with
>       (BitVec.ofInt 32 (-33)).sshiftRight x.toNat = 0#32 
>   [Meta.Tactic.simp.congr] ite_congr not modified 
>   [Meta.isDefEq] [0.031529] 💥️ ?h₃ =?= fun a => Eq.refl (if (BitVec.ofInt 32 (-33)).sshiftRight x.toNat = 0#32 then none else some 0#32) ▶
> ```
> 
> `seal BitVec.sshiftRight` turns it into a `(kernel) deep recursion detected`

We get the same error in https://github.com/leanprover/lean4/issues/5724, where this is due to the kernel trying to reduce a `rfl` lemma.

**Comment by tobiasgrosser** [comment]
https://github.com/leanprover/lean4/issues/5724

**Comment by nomeata** [comment]
Ok, not due to #5479 likely, and maybe just a duplicate of #5724: The following avoids the problem:
```lean

def Option.some_bind' := (fun () => @Option.some_bind) ()

theorem extracted_1 (e : Option (BitVec 32)) :
  none =
    Option.bind e fun x =>
      if x ≥ 32 then none
      else
        (some ((BitVec.ofInt 32 (-33)).sshiftRight x.toNat)).bind fun y =>
          if y = 0#32 then none else some 0#32 := by
  simp only [Option.some_bind']
```
This redefinition of the lemma makes it a non-rfl lemma, so we effectively get the effect of Leo’s #4595 and the kernel is happy.

**Comment by tobiasgrosser** [comment]
> It’s still somewhat surprising that this is an elab-time timeout, and not (just) a kernel-time timeout, so more debugging to be done.
> 
> We’ll probably going to merge #4595 (off by default) so that in these cases you can at least set a flag and hopefully make progress in your work, and maybe it can be on by default eventually.

Merging #4595 would be incredibly useful. This would also allow us to gather data at a bit wider scale, which can then potentially inform a more complete solution.

**Comment by datokrat** [comment]
The original example seems to have stopped failing somewhere in May 2025, but I don't know the reason. However, I ran into a similar issue that still fails:

```lean
def foo (i : Int) (_hr : i = i) : Nat := sorry
theorem foo_eq : foo n h = sorry := sorry

/--
error: Tactic `simp` failed with a nested error:
maximum recursion depth has been reached
use `set_option maxRecDepth <num>` to increase limit
use `set_option diagnostics true` to get diagnostic information
-/
#guard_msgs in
example {i : Nat} :
    (foo ↑((i + (BitVec.ofNat 10 (2 ^ 9)).toNat) % 2 ^ 10 : Nat) sorry) = 0 := by
  simp only [BitVec.toNat_ofNat]
  simp only [foo_eq]
```

Version:

```lean
Lean 4.25.0-nightly-2025-09-29
Target: x86_64-unknown-linux-gnu
```

The example succeeds with smaller numbers. Could this be a related problem?

(Update: This one also fails with `skipKernelTC`, so it seems to be an elaborator issue.)

**Comment by keithadler** [comment]
Worth a look before this is closed — on `4.35.0-nightly-2026-09-04` the reported failure is gone but a different one takes its place.

The repro first needs a rename: `Option.some_bind` is now `Option.bind_some` (same statement). With that substituted, `simp only [Option.bind_some]` no longer hits `maximum recursion depth` — it makes progress and simplifies the goal to:

```
e : Option (BitVec 32)
⊢ none =
    e.bind fun x =>
      if x ≥ 32 then none else if (BitVec.ofInt 32 (-33)).sshiftRight x.toNat = 0#32 then none else some 0#32
```

But the declaration then fails with:

```
error: (kernel) deep recursion detected, use `set_option maxRecDepth <num>` to increase the limit
```

So the recursion problem appears to have moved from `simp` to the kernel rather than gone away. Recording it here rather than suggesting a close.

Triage assisted by Claude; repros run and checked manually.
